US04664693
benzo[b]furan-5-carboxaldehyde was prepared from 5-bromobenzo[b]furan (prepared from 4-bromophenol and bromoacetaldehyde diethyl acetal by the general method described in J. Chem. Soc. Perkin 1, 1972, 556) following essentially the same procedure as that described in (b) above. Benzo[b]furan-5-carboxaldehyde was obtained as an oil. Pmr spectrum (CDCl3 ; δ in ppm): 6.90 (1H, d); 7.55-7.93 (3H, m); 8.15 (1H, d); 10.08 (1H, s).

reactant | 5-bromobenzo[b]furan | BrC1=CC2=C(OC=C2)C=C1 | C8H5BrO
reactant | 4-bromophenol | BrC1=CC=C(C=C1)O | C6H5BrO
reactant | bromoacetaldehyde diethyl acetal | C(C)OC(CBr)OCC | C6H13BrO2
product | Benzo[b]furan-5-carboxaldehyde | O1C2=C(C=C1)C=C(C=C2)C=O | C9H6O2
